US08034812B2
Production of N-[2-(imidazo[1,2-b]pyridazin-6-yloxy)phenyl]-N′-phenylurea
To a solution of 2-(imidazo[1,2-b]pyridazin-6-yloxy)aniline (90 mg, 0.40 mmol) and triethylamine (0.011 mL, 0.08 mmol) in tetrahydrofuran (20 mL) was added phenyl isocyanate (0.061 mL, 0.56 mmol), and the mixture was stirred at room temperature for 18 hr. The reaction mixture was concentrated under reduced pressure, and the residue was recrystallized from methanol to give the title compound (99 mg, 0.29 mmol, yield 72%) as a white powder.

reactant | 2-(imidazo[1,2-b]pyridazin-6-yloxy)aniline | 0.40 mmol, 90 mg | N=1C=CN2N=C(C=CC21)OC2=C(N)C=CC=C2 | C12H10N4O
reactant | triethylamine | 0.08 mmol, 0.011 mL | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 0.56 mmol, 0.061 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-[2-(imidazo[1,2-b]pyridazin-6-yloxy)phenyl]-N′-phenylurea | 0.29 mmol, 99 mg, yield 72% | N=1C=CN2N=C(C=CC21)OC2=C(C=CC=C2)NC(=O)NC2=CC=CC=C2 | C19H15N5O2
